US06987104B2
To 2(S)-hydroxy-3-(2(S)-oxazol-2-yl-pyrrolidin-1-carbonyl)-heptanoic acid methyl ester C-1 (5 mmol) in DCM (5 mL) is added DAST (15 mmol) at −20° C. The solution is stirred for 16 hours at rt. The reaction mixture is washed with aqueous NaHCO3 and brine, dried (Na2SO4) and concentrated then purified on silica gel (EtOAc/hexanes) to afford 2-(R/S)-fluoro-3-(2(S)-oxazol-2-yl-pyrrolidin-1-carbonyl)-heptanoic acid methyl ester C-2.

reactant | 2(S)-hydroxy-3-(2(S)-oxazol-2-yl-pyrrolidin-1-carbonyl)-heptanoic acid methyl ester | COC([C@H](C(CCCC)C(=O)N1[C@@H](CCC1)C=1OC=CN1)O)=O | C16H24N2O5
reactant | DAST | 15 mmol | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(R/S)-fluoro-3-(2(S)-oxazol-2-yl-pyrrolidin-1-carbonyl)-heptanoic acid methyl ester | COC(C(C(CCCC)C(=O)N1[C@@H](CCC1)C=1OC=CN1)F)=O | C16H23FN2O4
